US06498251B1
Synthesis Example 5c 5-Benzyl-4,5,6,7-tetrahydro-furo[3,2-c]pyridine
2-(Benzyl-(3-furylmethyl)amino)ethanol (6.5 g, 28 mmol), triethylamine (5.9 ml, 42 mmol), 4-dimethylaminopyridine (250 mg, 2.1 mmol) and tosyl chloride (6.4 g, 34 mmol) were stirred at room temperature for 17 hours in dichloromethane (260 ml). The reaction solution was mixed with dichloromethane, washed with water and saturated brine and then dried with anhydrous magnesium sulfate. The solvent was removed by evaporation from the organic layer under a reduced pressure, and the thus obtained material was separated and purified by a silica gel column chromatography to obtain 5.4 g of crude 1-chloro-2-(benzyl-(3-furylmethyl)amino)ethane. The crude 1-chloro-2-(benzyl-(3-furylmethyl)amino)ethane (1.8 g) was dissolved in anhydrous tetrahydrofuran (35 ml) and cooled to 0° C. In an atmosphere of argon, n-butyl lithium hexane solution (14 mmol) was added thereto to carry out 2 hours of the reaction at room temperature. The reaction solution was mixed with 1 N sodium hydroxide aqueous solution, the reaction product was extracted with dichloromethane, and then the organic layer was washed with saturated brine and dried with anhydrous magnesium sulfate. The solvent was removed by evaporation from the organic layer under a reduced pressure, and the thus obtained material was separated and purified by a silica gel column chromatography to obtain 1.1 g (5.1 mmol, 73% in yield) of the title compound.

reactant | 1-chloro-2-(benzyl-(3-furylmethyl)amino)ethane | 1.8 g | ClCCN(CC1=COC=C1)CC1=CC=CC=C1 | C14H16ClNO
reactant | n-butyl lithium hexane | 14 mmol | CCCCCC.C(CCC)[Li]
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | 5-Benzyl-4,5,6,7-tetrahydro-furo[3,2-c]pyridine | C(C1=CC=CC=C1)N1CC2=C(CC1)OC=C2 | C14H15NO
